US05314880
4-Methoxy-1,2-phenylenediamine (5.00 g, 36 mmol) was dissolved in formic acid (10 ml) and heated at reflux for 2 hours. The solution was allowed to cool to room temperature overnight then treated with calcium carbonate (5.0 g). After dilution with ethanol (150 ml) the mixture was heated at reflux for 1 h then filtered, the residue being washed with hot ethanol (50 ml). The combined filtrates were evaporated at reduced pressure to give an oil from which a solid crystallised. The material was slurried with diethyl ether (50 ml) then filtered to give an orange solid which was recrystallised from ethyl acetate to give 5-methoxybenzimidazole (5.33 g, 99%) as a yellow crystalline solid.

reactant | 4-Methoxy-1,2-phenylenediamine | 36 mmol, 5.00 g | COC1=CC(=C(C=C1)N)N | C7H10N2O
reactant | calcium carbonate | 5.0 g | C([O-])([O-])=O.[Ca+2]
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | 5-methoxybenzimidazole | 5.33 g, 99% | COC1=CC2=C(N=CN2)C=C1 | C8H8N2O
